US05571832
2-(3,4-Dichlorophenylacetamidomethyl)-1-(ethyl)pyrrolidine
2-Aminomethyl-1-(ethyl)pyrrolidine (Aldrich) (3.2 g, 25 mmol) and 3,4-dichlorophenylacetic acid (7.7 g, 37.6 mmol, 1.5 eq) were coupled in CH2Cl2 in the presence of DCC (10.6 g, 51 mmol, 2 eq) as described in Example 7 to give the desired product (7.6 g, 97%) as a colorless oil: 1H-NMR (CDCl3) ∂7.41 (d, J=8.2 Hz, 1H), 7.39 (d, J=2.0 Hz, 1H), 7.13 (dd, J=2.0, 8.2 Hz, 1H), 6.13 (br s, 1H), 3.51 (s, 2H), 3.37 (m, 1H), 3.07 (m, 2H), 2.65 (m, 1H), 2.53 (m, 1H), 2.04-2.21 (m, 2H, CH2CH3 ), 1.81 (m, 1H), 1.67 (m, 1H), 1.35-1.60 (complex m, 2H), 0.99 (t, J=7.2 Hz, 3H); CIMS (MH+ calcd for C15H20Cl2N2O): 315. Found (MH+): 315; Anal. (calcd for C15H20Cl2N2O): C,H,N.

reactant | 2-Aminomethyl-1-(ethyl)pyrrolidine | 25 mmol, 3.2 g | NCC1N(CCC1)CC | C7H16N2
reactant | 3,4-dichlorophenylacetic acid | 37.6 mmol, 7.7 g, 1.5 eq | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | DCC | 51 mmol, 10.6 g, 2 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(3,4-Dichlorophenylacetamidomethyl)-1-(ethyl)pyrrolidine | 7.6 g, 97% | ClC=1C=C(C=CC1Cl)CC(=O)NCC1N(CCC1)CC | C15H20Cl2N2O
